US04916149
After adding 69.96 g of 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine to a solution of 19.07 g of potassium hydroxide in 300 ml of abs. ethanol, 20.5 ml of carbon disulfide were dropped to the mixture under stirring. The red solution obtained was refluxed for 5 hours, the hot solution was clarified by activated carbon and filtered. After adding 370 ml of water and then 70 ml of a mixture of acetic acid and water (1:2) to the filtrate, the crystalline precipitate was filtered by suction, washed with water and dried at 80° C. Thus, 55.5 g (67%) of 1-acetylamino-5-trifluoromethylbenzimidazole-2-thione were obtained, m.p.: 294°-295° C. after recrystallization from 50% of aqueous ethanol.

reactant | 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine | 69.96 g | NC1=C(C=CC(=C1)C(F)(F)F)N(N)C(C)=O | C9H10F3N3O
reactant | potassium hydroxide | 19.07 g | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | carbon disulfide | 20.5 ml | C(=S)=S | CS2
product | 1-acetylamino-5-trifluoromethylbenzimidazole-2-thione | 55.5 g, 67% | C(C)(=O)NN1C(NC2=C1C=CC(=C2)C(F)(F)F)=S | C10H8F3N3OS
